US05449785
A solution of 4,4-dimethyl-2-cyclohexen-1-one (500 mg) in dry tetrahydrofuran (2 ml) was added to a well stirred solution of lithium (141 mg) in liquid ammonia (5 ml). The mixture was stirred at -33° C. for 1 hr. And then, to this solution allyl bromide (2.4 g) was added, and stirred for 30 min. The reaction was quenched by addition of methanol, and the ammonia was allowed to evaporate. The residue was diluted with water, and extracted with diethyl ether. The organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification of the residue with silica gel column chromatography (using n-hexane:ethyl acetate=30:1 as an eluent) gave 4,4-dimethyl-2-(2-propenyl)cyclohexanone (345 mg, 52% yield) as a colorless oil. (b) To a solution of lithium tri-tert-butoxyaluminohydride (460 mg) in dry tetrahydrofuran (3.5 ml) there was added a solution of 4,4-dimethyl-2-(2-propenyl)cyclohexanone (250 mg) at 0° C., and the mixture was stirred at room temperature for 2 hrs. The reaction was quenched by addition of water. The pH of the mixture was adjusted to pH 7 with 0.1N hydrochloric acid. The mixture was extracted with diethyl ether, and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. Purification of the residue by silica gel column chromatography (using n-hexane: ethyl acetate=20:1 as an eluent) gave (1R*,2R*)-4,4-dimethyl-2-(2-propenyl)cyclohexanol (185 mg, 73% yield) as a colorless oil; EI-MS: m/z 168 (M+); 1H-NMR (CDCl3)d: 0.90 (3H,s), 0.93 (3H, s), 1.2~1.8 (7H,m), 1.95 (1H,m), 2.46 (1H,m), 3.23 (1H,dt,J=5 & 11 Hz), 5.02 (1H,br.d,J=10 Hz), 5.06 (1H,br.d,J=17 Hz), 5.85 (1H,m).

reactant | lithium tri-tert-butoxyaluminohydride | 460 mg | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | 4,4-dimethyl-2-(2-propenyl)cyclohexanone | 250 mg | CC1(CC(C(CC1)=O)CC=C)C | C11H18O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R*,2R*)-4,4-dimethyl-2-(2-propenyl)cyclohexanol | 185 mg, 73% yield | CC1(C[C@H]([C@@H](CC1)O)CC=C)C | C11H20O
